US04518607
A mixture of 1-[4-(4-chlorophenyl)-2-hydroxy-n-butyl]imidazole (20 g) in dry pyridine (100 ml) was cooled in an ice bath and treated dropwise with stirring with 7.0 ml of methanesulfonyl chloride. The mixture was allowed to come to room temperature overnight and diluted to 500 ml by the addition of ethyl acetate, with stirring. The resulting solid was then filtered off, washed with acetone and dried in air to give 1-[4-(4-chlorophenyl)-2-(methanesulfonyloxy)-n-butyl]imidazole hydrochloride as a white solid (27.4 g).

reactant | 1-[4-(4-chlorophenyl)-2-hydroxy-n-butyl]imidazole | 20 g | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)O | C13H15ClN2O
reactant | methanesulfonyl chloride | 7.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-(4-chlorophenyl)-2-(methanesulfonyloxy)-n-butyl]imidazole hydrochloride | 27.4 g | Cl.ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)OS(=O)(=O)C | InChI=1S/C14H17ClN2O3S.ClH/c1-21(18,19)20-14(10-17-9-8-16-11-17)7-4-12-2-5-13(15)6-3-12;/h2-3,5-6,8-9,11,14H,4,7,10H2,1H3;1H
